US08217066B2
Step 2: 1-(4′-{-4-[1-Hydroxy-2-(3-trifluoromethyl-benzylsulfanyl)-ethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 2, using 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-(3-trifluoromethyl-benzylsulfanyl)-ethanol and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-(3-trifluoromethyl-benzylsulfanyl)-ethanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(CSCC1=CC(=CC=C1)C(F)(F)F)O | C20H17BrF3NO2S
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-(4′-{-4-[1-Hydroxy-2-(3-trifluoromethyl-benzylsulfanyl)-ethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CSCC1=CC(=CC=C1)C(F)(F)F)O | C32H30F3NO4S
